US07030141B2
Step 2: 2-(4-Bromo-2-chloro-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (2.2 g, 10 mmol) was dissolved in 150 mL dry diethyl ether under Ar, cooled in an ice water bath, added dry pyridine (2.8 mL, 34 mmol) followed by the dropwise addition of oxalyl chloride (1.5 mL, 17 mmol). A precipitate forms immediately. The reaction was stirred vigorously at 0° C. for 1 hours, then at ambient temperature for two hours. Added 100 mL diethyl ether, filtered off solids washing with diethyl ether. Concentrated the filtrates to an off-white oil. Redissolved oil in 100 mL dry DCM under Ar, cooled to 0° C., added 3 mL pyridine followed by 2-chloro-4-bromoaniline (1.8 g, 8.5 mmol). The reaction was allowed to warm to ambient temperature and stirred over the weekend. Concentrated reaction, redissolved in 250 mL EtOAc, washed with 10% citric acid (3×100 mL), water, (2×100 mL), brine (100 mL), dried with MgSO4, filtered and concentrated. Purified on a silica gel column eluted with an automated system with gradient of 0-60% EtOAc in hexanes. Combined and concentrated pure fractions to yield title compound as a yellow solid. (2.7 g, 79%) APCI (AP−): 401.0, 403.0, 405.0 (M−H)−.

reactant | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 10 mmol, 2.2 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
reactant | pyridine | 34 mmol, 2.8 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 17 mmol, 1.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloro-4-bromoaniline | 8.5 mmol, 1.8 g | ClC1=C(N)C=CC(=C1)Br | C6H5BrClN
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-(4-Bromo-2-chloro-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)Br)Cl)=O | C16H20BrClN2O3
